US06140351
To a suspension of N-(4-bromophenyl)-2-nitro-5-chlorobenzamide (0.50 g, 1.4 mmol) in methanol (20 mL) was added 5% platinum on carbon (Degussa type, 50% water, 0.20 g), and the mixture stirred under hydrogen (balloon). After 0.5 hours, the mixture was filtered and concentrated of all volatiles in vacuo to afford 0.45 g (99% yield) of N-(4-bromophenyl)-2-amino-5-chlorobenzamide as a white solid; NMR (DMSO-d6) 10.2 (s, 1), 7.5-7.7 (m, 5), 7.2 (dd, 1), 6.8 (d, 1) ppm.

reactant | N-(4-bromophenyl)-2-nitro-5-chlorobenzamide | 1.4 mmol, 0.50 g | BrC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C13H8BrClN2O3
solvent | methanol | 20 mL | CO | CH4O
catalyst | platinum on carbon | 0.20 g | [Pt] | Pt
product | N-(4-bromophenyl)-2-amino-5-chlorobenzamide | 0.45 g, 99% yield | BrC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)N)=O | C13H10BrClN2O
